US04168269
4,9-Dihydro-4-hexanoyl-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
A mixture of 7 g. of 4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 4.6 g. (4.8 ml.) of hexanoyl chloride in 70 ml. of benzene is heated with stirring under reflux for 3 hours. The reaction mixture is stirred with cooling in an ice bath for 2 hours, 150 ml. of hexane is added and the mixture is placed in a chill room. The solvents are removed in vacuo on a steam bath. A 10 ml. portion of ether is added to the residue and the mixture is returned to the chill room. The tan crystals are collected by filtration, washed with ether and dried. The ether is concentrated giving a green oil which is triturated twice with hexane and once with a mixture of hexane and ether, giving crystals which are collected, washed with ether and dried. The two crops of crystals are combined, dissolved with warming in 75 ml. of ether and filtered. The filtrate is concentrated to 35 ml. and stored in a cold room for 4 hours. The solid is collected, washed with ether then hexane and dried, giving the desired product, mp. 76°-77° C.

reactant | 4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C12H10N2OS
reactant | hexanoyl chloride | 4.8 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
product | 4,9-Dihydro-4-hexanoyl-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(CCCCC)(=O)N1C=2C(C(N(C3=C1C=CC=C3)C)=O)=CSC2 | C18H20N2O2S
